US06025519
Diethyl (±)-3,3-diethoxy-trans-1,2-cyclobutanedicarboxylate
By the method of Example 1, diethyl fumarate was reacted at -40° C. with 2 equivalents of ketene diethyl acetal in the presence of 0.2 equivalents of ethyldiisopropylamine and 2 equivalents of diisobutylaluminium chloride. 1H NMR analysis of the reaction mixture showed that the yield was quantitative.

reactant | diethyl fumarate | C(\C=C\C(=O)OCC)(=O)OCC | C8H12O4
reactant | ketene diethyl acetal | 2 equivalents | C(C)OC(=C)OCC | C6H12O2
reactant | ethyldiisopropylamine | 0.2 equivalents | C(C)N(C(C)C)C(C)C | C8H19N
reactant | diisobutylaluminium chloride | 2 equivalents | [Cl-].C(C(C)C)[Al+]CC(C)C
product | Diethyl (±)-3,3-diethoxy-trans-1,2-cyclobutanedicarboxylate | C(C)OC1([C@H]([C@@H](C1)C(=O)OCC)C(=O)OCC)OCC | C14H24O6
